US05342835
Ethyl 2-(3,4-dimethoxyphenyl)-4-(4-fluorophenyl)benzoate (2.8 g; 0.074 mole), absolute ethanol (50 ml) and 10N sodium hydroxide (2 ml) are introduced into a 100 ml flask. The mixture is taken to reflux temperature for two hours, then poured over 1N hydrochloric acid (150 ml). The precipitate is filtered on fritted glass, washed with water, then dried in the air. 2-(3,4-dimethoxyphenyl)-4-(4-fluorophenyl)benzoic acid (2.1 g; yield: 81%) is thus obtained in the form of a white solid of m.p. 210° C.

reactant | Ethyl 2-(3,4-dimethoxyphenyl)-4-(4-fluorophenyl)benzoate | 0.074 mole, 2.8 g | COC=1C=C(C=CC1OC)C1=C(C(=O)OCC)C=CC(=C1)C1=CC=C(C=C1)F | C23H21FO4
reactant | sodium hydroxide | 10N, 2 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 150 ml | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-(3,4-dimethoxyphenyl)-4-(4-fluorophenyl)benzoic acid | 2.1 g, yield: 81% | COC=1C=C(C=CC1OC)C1=C(C(=O)O)C=CC(=C1)C1=CC=C(C=C1)F | C21H17FO4
